**********
*Motorola ECL SPICE Models 
*Date:5/4/94
**********
*       ECLinPS I/O Modelling Kit - Netlist Schematics         *
*                                                              *
*     The purpose of this document is to provide the netlists  *
* for the various schematics supplied in the ECLinPS I/O SPICE *
* Modelling Kit Application Note.  This information will save  *
* design engineers who have no schematic capture tools         *
* at their disposal the task of producing the SPICE netlists   *
* for the schematics. To use these netlists it will require    *
* a copy of the ECLinPS I/O SPICE Modelling Kit application    *
* note.  This note is required to identify the appropriate     *
* input and output models for a specific device as well as the *
* appropriate package model and ESD structure.  In addition a  *
* copy of this note will help visualize the netlists and ease  *
* the building of the simulation circuits.  The note also      *
* provides suggestions on simulating the various ECLinPS and   *
* ECLinPS Lite devices.                                        *
************
*                   Netlist Organization                       *
*                                                              *
*     The netlists are organized as a group of subcircuits so  *
* that the user can simply build a simulation netlist by       *
* calling the appropriate subcircuit models.  In this way any  *
* problems associated with commonality in node numbering       *
* or component naming due to the use of multiple copies of a   *
* schematic will be eliminated.                                *
*     There are a group of GLOBAL nodes for the schematics,    *
* they are as follows:                                         *
*                                                              *
*                VCC = Node (100)                              *
*                VEE = Node (200)                              *
*                VBB = Node (300)                              *
*                VCS = Node (400)                              *
*                                                              *
* A detailed discussion on these nodes can be found in the     *
* application note. Notice that the subcircuit models all      *
* list these nodes in the external node list parameters.       *
* This will serve to simplify building the individual netlists *
* into interconnect simulation netlists.                       *
***********
*     All of the subcircuits are labeled as to what they rep-  *
* represent (ie. typical input gate) and are cross referen-    *
* ced to the figure numbers in the application note.  In       *
* addition all of the subcircuits list the node numbers for    *
* the specified inputs and outputs for the cell.  This will    *
* ease the task of interconnecting the simulation netlist.     *
* The component labels used in the netlists are identical to   *
* those on the schematics in the application note.  With the   *
* simplicity of the models this should allow the user to trace *
* the netlists back to the schematics.                         *
*     The output netlists all include the temperature compen-  *
* sation network circuitry for the 100E style output buffers.  *
* The components which make up the temperature compensation    *
* networks  are QT1, QT2 and RTC.  For simulating 10E style    *
* outputs these components should either be deleted or         *
* commented out of the subcircuit netlists.                    *
*   The user may notice that there are four terminals on       *
* the transistor models.  The fouth terminal represents the    *
* the connection to the substrate and is always biased to VEE. *
*                                                              *
**********
*                     Subcircuit Netlists                      *
*                                                              *
*               Typical Input Gate (Figure 1)                  *
*                                                              *
* IN = Node (601) Q = Node (612) QB = Node (611)               *
**********
*SRC=TYPIN;TYPIN;ECL;ECLinPS;
*SYM=TYPIN
.SUBCKT TYPIN 100 200 300 400 601 612 611
*connections  Vcc Vee Vbb Vcs In  Q   QB
Q5 100 2 611 200 TN6
Q1 2 601 4 200 TN6
Q9 7 400 8 200 TN6
Q4 100 3 612 200 TN6
Q6 611 611 6 200 TN6
Q8 6 400 9 200 TN6
Q2 3 300 4 200 TN6
Q3 4 400 5 200 TN6
Q7 612 612 7 200 TN6
RPD 601 200 50K
R2 1 2 270 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
R4 5 200 325 RMOD
R1 100 1 250 RMOD
R3 1 3 270  RMOD
R5 9 200 650 RMOD
R6 8 200 650 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                              *
* IN = Node (602) Q = Node (622) QB = Node (621)               *
**********
*SRC=TYPOUT;TYPOUT;ECL;ECLinPS;
*SYM=TYPIN
.SUBCKT TYPOUT 100 200 300 400 602 622 621
*connections   Vcc Vee Vbb Vcs In  Q   QB
Q2 22 300 23 200 TN13P5
QT1 22 22 25 200 TN4
QT2 25 25 22 200 TN4
Q3 23 400 24 200 TN13P5
Q1 28 602 23 200 TN13P5
Q5 100 28 621 200 TNECLIPS
Q4 100 22 622 200 TNECLIPS
R1 28 100 300 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
RTC 28 25 180 RMOD
R3 200 24 130 RMOD
R2 22 100 300 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                              *
* IN = Node (603) Qa = Node (632) QaB = Node (631)             *
* Qb = Node (634) QbB = Node (633)                             *
**********
*SRC=MULTIOUT;MULTIOUT;ECL;ECLinPS;
*SYM=MULTIOUT
.SUBCKT MULTIOUT 100 200 300 400 603 632 631 634 633
* connections    Vcc Vee Vbb Vcs In  Qa  QaB Qb  QbB
Q2b 38 300 36 200 TN13P5
Q2a 38 300 36 200 TN13P5
QT1 38 38 37 200 TN4
QT2 37 37 38 200 TN4
Q3a 36 400 34 200 TN13P5
Q3b 36 400 34 200 TN13P5
Q1a 35 603 36 200 TN13P5
Q1b 35 603 36 200 TN13P5
Q7 100 35 633 200 TNECLIPS
Q6 100 38 634 200 TNECLIPS
Q5 100 35 631 200 TNECLIPS
Q4 100 38 632 200 TNECLIPS
R1 35 100 150 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
RTC 35 37 80 RMOD
R3 200 34 65 RMOD
R2 38 100 150 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                              *
* In = Node (604) BUSB = Node (641)                            *
**********
*SRC=BUSOUT;BUSOUT;ECL;ECLinPS;
*SYM=BUSOUT
.SUBCKT BUSOUT 100 200 300 400 604 641
*connections   Vcc Vee Vbb Vcs In  BUSB
Q2c 41 300 47 200 TN13P5
Q2b 41 300 47 200 TN13P5
Q2a 41 300 47 200 TN13P5
QT1 41 41 43 200 TN4
Q3c 47 400 48 200 TN13P5
Q3b 47 400 48 200 TN13P5
Q1a 40 604 47 200 TN13P5
Q3d 47 400 48 200 TN13P5
Q1b 40 604 47 200 TN13P5
Q1c 40 600447 200 TN13P5
Q5a 100 40 641 200 TNECLIPS
Q5b 100 40 641 200 TNECLIPS
R3 40 44 60 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
R1 44 100 100 RMOD
RTC 44 43 90 RMOD
R5 200 48 43 RMOD
R4 41 42 60 RMOD
R2 42 100 100 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                              *
* IN = Node (605) Q = Node (652) QB = Node (651)               *
**********
*SRC=2XOUT;2XOUT;ECL;ECLinPS;
*SYM=TYPIN
.SUBCKT 2XOUT 100 200 300 400 605 652 651
*connections  Vcc Vee Vbb Vcs In  Q   QB
Q2b 53 300 56 200 TN13P5
Q2a 53 300 56 200 TN13P5
QT1 53 53 57 200 TN4
QT2 57 57 53 200 TN4
Q3a 56 400 52 200 TN13P5
Q3b 56 400 52 200 TN13P5
Q1a 51 605 56 200 TN13P5
Q1b 51 605 56 200 TN13P5
Q5 100 51 651 200 TNECLIPS
Q4 100 53 652 200 TNECLIPS
R1 51 100 150 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
RTC 51 57 80 RMOD
R3 200 52 65 RMOD
R2 53 100 150 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                               *
* IN = Node (606) Q = Node (662) QB = Node (661)                *
**********
*SRC=3XOUT;3XOUT;ECL;ECLinPS;
*SYM=TYPIN
.SUBCKT 3XOUT 100 200 300 400 606 662 661
*connections  Vcc Vee Vbb Vcs In  Q   QB
Q2a 63 300 65 200 TN13P5
Q2b 63 300 65 200 TN13P5
Q2c 63 300 65 200 TN13P5
QT1 63 63 66 200 TN4
QT2 66 66 63 200 TN4
Q3a 65 400 64 200 TN13P5
Q3b 65 400 64 200 TN13P5
Q1a 60 606 65 200 TN13P5
Q3c 65 400 64 200 TN13P5
Q2b 60 606 65 200 TN13P5
Q3c 60 606 65 200 TN13P5
Q5 100 60 661 200 TNECLIPS
Q4 100 63 662 200 TNECLIPS
R1 60 100 100 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
RTC 60 66 60 RMOD
R3 200 64 43 RMOD
R2 63 100 100 RMOD
.ENDS
*INCLUDE ECL2.LIB
**********
*                                                               *
*                                                               *
* ECLinPS Package Model (28-lead PLCC)                          *
* EXT = Node (84) INT = Node (81)                               *
**********
*SRC=PKGTYP;PKGTYP;ECL;ECLinPS;
*SYM=PKG
.SUBCKT PKGTYP 84 81
*TYPICAL PACKAGE MODEL
CPKG 82 0 1.2PF
RPKG1 84 82 750
RPKG2 82 83 750
RPKG3 83 81 .2
LPKG1 84 82 2.8NH
LPKG2 82 83 2.8NH
.ENDS
**********
* ECLinPS Lite Package Model (8-lead SOIC)                      *
* EXT = Node (88) INT = Node (89)                               *
**********
*SRC=PKG8;PKG8;ECL;ECLinPS;
*SYM=PKG
.SUBCKT PKG8 88 89
CPKG 82 0 0.8PF
RPKG1 88 82 750
RPKG2 82 83 750
RPKG3 83 89 .1
LPKG1 88 82 1.5NH
LPKG2 82 83 1.5NH
.ENDS
**********
* ECLinPS ESD Structure                                         *
* IN = Node (90)                                                *
**********
*SRC=ESDSTD;ESDSTD;ECL;ECLinPS;
*SYM=ESD
.SUBCKT ESDSTD 90 200
QESD1 90 200 200 200 TN6
QESD2 90 200 200 200 TN6
.ENDS
*INCLUDE ECL2.LIB
**********
* ECLinPS Lite ESD Structure                                    *
* IN = Node (95) OUT = Node (96)                                *
**********
*SRC=ESDLITE;ESDLITE;ECL;ECLinPS;
*SYM=ESD
.SUBCKT ESDLITE 95 96 100 200
DESD1 95 100 CBVCC
DESD2 200 95 CBSUB
RB 95 96 185 RMOD
.MODEL RMOD R TC1=.405M TC2=2.6U
.ENDS
*INCLUDE ECL2.LIB
**********
* SPICE Transistor/Diode Parameters 
**********
* 1.75u x 4.0u emitter     C-EB
.MODEL TN4         NPN
+(IS  = 5.27E-18  BF  = 120   NF  = 1    VAF = 30   IKF = 6.48mA
+ ISE = 2.75E-16  BR  = 10    NE  = 2    VAR =  5   IKR = 567uA
+ IRB =  8.1uA    RB  = 461.6 RBM =142.5 RE  = 21.6 RC  = 83.1
+ CJE = 19.9fF    VJE = .9    MJE = .4              XTB = 0.73
+ CJC = 25.1fF    VJC = .67   MJC = .32  XCJC= .3
+ CJS = 49.6fF    VJS = .6    MJS = .4   FC  = .9
+ TF  = 8pS       TR  = 1nS   XTF = 10   VTF = 1.4V ITF = 17.0mA
+ ISC=0   EG=1.11   XTI=5.2   PTF=0   KF=0   AF=1   NR=1   NC=2)
**********
* 1.75u x 4.75u emitter     C-EB
.MODEL TN4P75      NPN
+(IS  = 6.50E-18  BF  = 120   NF  = 1    VAF = 30   IKF = 8.0mA
+ ISE = 3.40E-16  BR  = 10    NE  = 2    VAR =  5   IKR = 700uA
+ IRB = 10.0uA    RB  = 378.5 RBM =120.0 RE  = 17.5 RC  = 74.0
+ CJE = 23.6fF    VJE = .9    MJE = .4              XTB = 0.73
+ CJC = 27.4fF    VJC = .67   MJC = .32  XCJC= .3
+ CJS = 53.8fF    VJS = .6    MJS = .4   FC  = .9
+ TF  = 8pS       TR  = 1nS   XTF = 10   VTF = 1.4V ITF = 21.0mA
+ ISC=0   EG=1.11   XTI=5.2   PTF=0   KF=0   AF=1   NR=1   NC=2)
**********
.MODEL TN6         NPN
+(IS  = 8.56E-18  BF  = 120   NF  = 1    VAF = 30   IKF = 10.5mA
+ ISE = 4.48E-16  BR  = 10    NE  = 2    VAR =  5   IKR = 922uA
+ IRB = 13.2uA    RB  = 291.4 RBM = 95.0 RE  = 13.3 RC  = 62.7
+ CJE = 29.9fF    VJE = .9    MJE = .4              XTB = 0.73
+ CJC = 31.2fF    VJC = .67   MJC = .32  XCJC= .3
+ CJS = 60.9fF    VJS = .6    MJS = .4   FC  = .9
+ TF  = 8pS       TR  = 1nS   XTF = 10   VTF = 1.4V ITF = 27.6mA
+ ISC=0   EG=1.11   XTI=5.2   PTF=0   KF=0   AF=1   NR=1   NC=2)
* 1.75u x 6.0u emitter     C-EB
**********
* 1.75u x 13.5u emitter     C-EB
.MODEL TN13P5     NPN
+(IS  = 2.09E-17  BF  = 120   NF  = 1    VAF = 30   IKF = 25.7mA
+ ISE = 1.09E-15  BR  = 10    NE  = 2    VAR =  5   IKR = 2.25mA
+ IRB = 32.2uA    RB  = 122.6 RBM = 42.2 RE  = 5.44 RC  = 32.8
+ CJE = 67.4fF    VJE = .9    MJE = .4              XTB = 0.73
+ CJC = 53.8fF    VJC = .67   MJC = .32  XCJC= .3
+ CJS = 103fF     VJS = .6    MJS = .4   FC  = .9
+ TF  = 8pS       TR  = 1nS   XTF = 10   VTF = 1.4V ITF = 67.5mA
+ ISC=0   EG=1.11   XTI=5.2  PTF=0   KF=0   AF=1   NR=1   NC=2)
**********
* 6 x 2.00u x 19.0u emitter     6 emitters, double collector
.MODEL TNECLIPS   NPN
+(IS  = 2.27E-16  BF  = 120   NF  = 1    VAF = 30   IKF = 279mA
+ ISE = 1.19E-14  BR  = 10    NE  = 2    VAR =  5   IKR = 24.4mA
+ IRB =  349uA    RB  = 15.98 RBM = 4.17 RE  = .501 RC  = 11.1
+ CJE = 611fF     VJE = .9    MJE = .4              XTB = 0.73
+ CJC = 440fF     VJC = .67   MJC = .32  XCJC= .3
+ CJS = 668fF     VJS = .6    MJS = .4   FC  = .9
+ TF  = 8pS       TR  = 1nS   XTF = 10   VTF = 1.4V ITF = 733mA
+ ISC=0   EG=1.11   XTI=4.0   PTF=0   KF=0   AF=1   NR=1   NC=2)
**********
* ECLinPS Lite ESD Diodes
.MODEL CBVCC D
+ ( IS = 1.00E-15  CJO = 527fF  Vj = 0.545  M = 0.32  BV = 14.5
+   IBV = 0.1E-6  XTI = 5  TT = 1nS )
**********
.MODEL CBSUB D ( IS = 1.00E-15  CJO = 453fF  TT = 1nS )
**********
